US05013749
(b) (S)-1-Hydroxy-1,1,2-triphenyleth-2-yl(3S,E)-5-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-3-hydroxy-4-pentenoate
A solution of dry dicyclohexylamine (2.49 ml) in dry THF (30 ml) under nitrogen at 3° was treated dropwise with a solution of n-butyl lithium (1.55M in hexanes, 8.06 ml). After 25 min the solution was cannulated dropwise into a stirred suspension of (S)-1-hydroxy-1,1,2-triphenyleth-2-yl acetate (1.828 g) in dry THF (60 ml) under nitrogen at -40°, plus washings (10 ml). When the addition was complete the mixture was allowed to warm to 3°. After 20 min the solution was cooled to -40° and treated with a solution of (E)-3-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-2-propenal (1.762 g) in dry THF (35 ml) and washings (5 ml) at 3° dropwise. After 4 h the reaction mixture was treated with saturated aqueous ammonium chloride solution (20 ml) and allowed to warm. Water (200 ml) was then added and the mixture extracted with ethyl acetate (3×100 ml). The combined extracts were dried and evaporated and purified by FCC eluting with System A (7:3) to give the title compound (3.234 g) as a light brown foam, νmax (CHBr3) 2971 (OH), 1729 cm-1 (C=O) (SS:SR=93.7 as determined by pmr).

reactant | dicyclohexylamine | 2.49 ml | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | n-butyl lithium | 1.55M, 8.06 ml | C(CCC)[Li]
reactant | (S)-1-hydroxy-1,1,2-triphenyleth-2-yl acetate | 1.828 g | C(C)(=O)O[C@H](C(C1=CC=CC=C1)(C1=CC=CC=C1)O)C1=CC=CC=C1 | C22H20O3
reactant | (E)-3-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-2-propenal | 1.762 g | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/C=O)C(C)C | C21H18F2N2O
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | Water | 200 ml | O | H2O
product | (S)-1-Hydroxy-1,1,2-triphenyleth-2-yl(3S,E)-5-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-3-hydroxy-4-pentenoate | 3.234 g | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/[C@H](CC(=O)O[C@H](C(C1=CC=CC=C1)(C1=CC=CC=C1)O)C1=CC=CC=C1)O)C(C)C | C43H38F2N2O4
